* NGSPICE file created from sky130_fd_bd_sram__openram_sp_cell_opt1_replica.ext - technology: sky130A

.subckt sram_sp_replica_cell BL BR VGND VPWR VPB VNB WL
X0 VPWR WL BR VNB sky130_fd_pr__special_nfet_pass ad=0.04375 pd=920000u as=0.0168 ps=520000u w=140000u l=150000u
X1 Q VPWR VGND VNB sky130_fd_pr__special_nfet_latch ad=0.156 pd=2.38 as=0.0808 ps=1.28 w=210000u l=150000u
X2 BL WL Q VNB sky130_fd_pr__special_nfet_pass ad=0.0168 pd=520000u as=0.0425 ps=920000u w=140000u l=150000u
X5 VPWR Q VPWR VPB sky130_fd_pr__special_pfet_pass ad=0p pd=0u as=0p ps=0u w=140000u l=150000u
X6 Q VPWR VPWR VPB sky130_fd_pr__special_pfet_pass ad=0p pd=0u as=0p ps=0u w=140000u l=150000u
X7 VGND Q VPWR VNB sky130_fd_pr__special_nfet_latch ad=0p pd=0u as=0p ps=0u w=210000u l=150000u
.ends
